US07566735B2
N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-propanesulfonamide
A mixture of ({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)amine (100 mg, 0.339 mmol), triethylamine (0.07 ml, 0.51 mmol) in DCM (10 ml) was stirred in an ice bath under argon. Then isopropylsulfonyl chloride was added (148 mg in total, 1 mmol) in DCM (1 ml) dropwise with stirring. The reaction mixture was allowed to stir at room temperature for 16 hr. Then the reaction mixture was washed with water (20 ml), separated the organic layer and dried with sodium sulphate. Solvent was removed by rotary evaporation and the sample purified by MDAP to give the title compound as an off white solid (51 mg, 37%).

reactant | ({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)amine | 0.339 mmol, 100 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CN)(F)F | C15H16F3N3
reactant | triethylamine | 0.51 mmol, 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | isopropylsulfonyl chloride | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | N-({4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}methyl)-2-propanesulfonamide | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CNS(=O)(=O)C(C)C)(F)F | C18H22F3N3O2S
